US07504411B2
To an ice-cooled solution of lithium tetrahydroborate (4.13 g, 189.6 mmol) in tetrahydrofuran (200 ml) was added chlorotrimethylsilane (41.52 g, 382.2 mmol). After stirring 5 min, a solution of 4-(4-bromo-phenyl)-piperidine-2,6-dione (12.53 g, 46.7 mmol) was added and stirred overnight. The resulting solution was concentrated in vacuo after addition of 10% aqueous hydrochloric acid. The residue was dissolved in aqueous sodium hydroxide solution and methanol, and a solution of di-tert-butyl dicarbonate (11.45 g, 52.5 mmol) in methanol (10 ml) was added and stirred for 6 h. After removal of the solvent in vacuo, concentrated hydrochloric acid wad added and stirred overnight. After extraction of the solution by diethyl ether, sodium hydroxide was added to the aqueous layer to turn basic, and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate. The residue of the diethyl ether and dichloromethane after removal of the solvents under reduced pressure was mixed and dissolved in tetrahydrofuran (200 ml). A solution of di-tert-butyl dicarbonate (7.45 g, 34.1 mmol) in tetrahydrofuran (10 ml) and triethylamine were added and stirred overnight. The resulting solution was concentrated in vacuo. Purification of the residue by silica gel chromatography eluting hexane/ethyl acetate (5/1, v/v) furnished 4-(4-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (14.4 g, 91%) as a solid.

reactant | lithium tetrahydroborate | 189.6 mmol, 4.13 g | [BH4-].[Li+]
reactant | chlorotrimethylsilane | 382.2 mmol, 41.52 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 4-(4-bromo-phenyl)-piperidine-2,6-dione | 46.7 mmol, 12.53 g | BrC1=CC=C(C=C1)C1CC(NC(C1)=O)=O | C11H10BrNO2
reactant | di-tert-butyl dicarbonate | 52.5 mmol, 11.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 34.1 mmol, 7.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(4-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 14.4 g, 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)Br | C16H22BrNO2
